US04039551
In the manner given in Example 16, a solution of N,N-dimethylhydroxylamine in dimethylformamide is treated with sodium hydride suspended in mineral oil, and the mixture is treated with 8-bromo-1-(chloromethyl)-6-(2-pyridyl)-4H-s triazolo[4,3-a][1,4]benzodiazepine to give 8-bromo-1[(dimethylamino)methyl]-6-(2-pyridyl)-4H-s-triazolo [4,3-a][1,4]benzodiazepine, N1 -oxide.

reactant | N,N-dimethylhydroxylamine | CN(O)C | C2H7NO
reactant | sodium hydride | [H-].[Na+]
reactant | 8-bromo-1-(chloromethyl)-6-(2-pyridyl)-4H-s triazolo[4,3-a][1,4]benzodiazepine | BrC=1C=CC2=C(C(=NCC=3N2C(=NN3)CCl)C3=NC=CC=C3)C1 | C16H11BrClN5
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 8-bromo-1[(dimethylamino)methyl]-6-(2-pyridyl)-4H-s-triazolo [4,3-a][1,4]benzodiazepine | BrC=1C=CC2=C(C(=NCC=3N2C(=NN3)CN(C)C)C3=NC=CC=C3)C1 | C18H17BrN6
